US09370515B2
Preparation of trans-4-(3-(7-methoxybenzo[b]thiophen-4-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol
To a solution of trans-4-(3-bromoimidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol (45 mg, 0.145 mmol, 1.0 equiv) in acetonitrile (1.45 mL) was added 2-(7-methoxybenzo[b]thiophen-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (55 mg, 0.188 mmol, 1.3 equiv), bis(triphenylphosphine)palladium(II)dichloride (11 mg, 0.0159 mmol, 0.1 equiv), then sodium carbonate (1.45 mL, 1.0 M aqueous solution, 10 equiv). The reaction mixture was irradiated in the microwave at 150° C. for 10 min. Purification by column chromatography gave 31 mg of the yellow solid, 53%.

reactant | trans-4-(3-bromoimidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol | 0.145 mmol, 45 mg, 1.0 equiv | BrC1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)O | C12H15BrN4O
reactant | 2-(7-methoxybenzo[b]thiophen-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.188 mmol, 55 mg, 1.3 equiv | COC1=CC=C(C2=C1SC=C2)B2OC(C(O2)(C)C)(C)C | C15H19BO3S
reactant | sodium carbonate | 1.0 M, 1.45 mL, 10 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 1.45 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.0159 mmol, 11 mg, 0.1 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | trans-4-(3-(7-methoxybenzo[b]thiophen-4-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol | 31 mg | COC1=CC=C(C2=C1SC=C2)C2=CN=C1N2N=C(C=C1)N[C@@H]1CC[C@H](CC1)O | C21H22N4O2S
